US09403798B2
1-(4-Fluorophenyl)pyrrolidin-3-ol
Under nitrogen atmosphere, a 1,4-dioxane suspension of 1-fluoro-4-iodobenzene (2.00 g, 9.01 mmol), pyrrolidin-3-ol (785 mg, 9.01 mmol), potassium phosphate (3.83 g, 18.0 mmol), copper (I) iodide (343 mg, 1.80 mmol), copper (114 mg, 1.80 mmol), and N,N-dimethylaminoethanol (100 mg) was stirred at 90° C. for 1 day and at 110° C. for 5 hours. After completion of the reaction, the reaction solution was filtered with Celite and the filtrate was concentrated under reduced pressure. To the residue, water was added and extraction with ethyl acetate from the resultant mixture was performed. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain a crude product of the title compound.

reactant | 1-fluoro-4-iodobenzene | 9.01 mmol, 2.00 g | FC1=CC=C(C=C1)I | C6H4FI
reactant | pyrrolidin-3-ol | 9.01 mmol, 785 mg | N1CC(CC1)O | C4H9NO
reactant | potassium phosphate | 18.0 mmol, 3.83 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | N,N-dimethylaminoethanol | 100 mg | CN(C)CCO | C4H11NO
catalyst | copper (I) iodide | 1.80 mmol, 343 mg | [Cu]I
catalyst | copper | 1.80 mmol, 114 mg | [Cu] | Cu
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 1-(4-Fluorophenyl)pyrrolidin-3-ol | FC1=CC=C(C=C1)N1CC(CC1)O | C10H12FNO
